US05763552
Ethyl 2,2,6,6,7,7,8,8,9,9,9-undecafluorononanoate (17.3 g, 90% yield) was prepared from ethyl 4-iodo-2,2,6,6,7,7,8,8,9,9,9-undecafluorononanoate (25.5 g, 50 mmol), tributyltin hydride (16.0 g, 55 mmol) and anhydrous ether (100 mL) according to the procedure of Example 6. Boiling point was 53°-55° C. at 0.7 mmHg.

reactant | ethyl 4-iodo-2,2,6,6,7,7,8,8,9,9,9-undecafluorononanoate | 50 mmol, 25.5 g | IC(CC(C(=O)OCC)(F)F)CC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C11H10F11IO2
reactant | tributyltin hydride | 55 mmol, 16.0 g | C(CCC)[SnH](CCCC)CCCC
solvent | ether | 100 mL | CCOCC | C4H10O
product | Ethyl 2,2,6,6,7,7,8,8,9,9,9-undecafluorononanoate | 17.3 g, 90% yield | FC(C(=O)OCC)(CCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F | C11H11F11O2
